US04472401
A solution of 700 mg of formic acid (98%) in 70 ml of CH2Cl2 was stirred at room temperature under nitrogen while 100 mg of carbonyldiimidazole were added thereto. After 30, minutes 1.5 g of ethyl 5,6-dihydro-1-oxo-1H-pyrimido [1,2-a] quinoxaline-2-carboxylate were added thereto and the mixture was stirred for another 6 hours. Then, the solution was poured into an aqueous NaHCO3 solution and extracted with ethyl acetate. The organic layer was dried over MgSO4, decolorized with charcoal and evaporated to dryness. The residue was crystallized from ethyl acetate to obtain 1.1 g (67% yield) of ethyl 5,6-dihydro-6-formyl-1-oxo-1H-pyrimido [1,2-a] quinoxaline-2-carboxylate melting at 172°-4° C.

reactant | formic acid | 700 mg | C(=O)O | CH2O2
reactant | carbonyldiimidazole | 100 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl 5,6-dihydro-1-oxo-1H-pyrimido [1,2-a] quinoxaline-2-carboxylate | 1.5 g | O=C1C(=CN=C2N1C1=CC=CC=C1NC2)C(=O)OCC | C14H13N3O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
product | ethyl 5,6-dihydro-6-formyl-1-oxo-1H-pyrimido [1,2-a] quinoxaline-2-carboxylate | 1.1 g, 67% yield | C(=O)N1CC=2N(C3=CC=CC=C13)C(C(=CN2)C(=O)OCC)=O | C15H13N3O4
